T1 (net9 net1 net1 0) pfet L=4.14E-6 W=3.09E-6
C2 (net9 net8) C=4.5E-9
C3 (vdd! net9) C=8.7E-6
T4 (net9 net1 net1 0) pfet L=6.97E-6 W=5.95E-6
T5 (net8 net11 net11 0) nfet L=2.75E-6 W=4.50E-6
R6 (net9 vdd!) R=4.1E2
T7 (net8 net4 net4 0) pfet L=3.74E-6 W=4.71E-6
T8 (net2 net10 net10 0) pfet L=2.59E-6 W=2.79E-6
T9 (net11 net7 net7 0) pfet L=5.82E-6 W=0.68E-6
C10 (net1 net9) C=4.8E-14
R11 (net3 net9) R=6.7E2
T12 (net11 net6 net6 0) nfet L=1.70E-6 W=7.70E-6
T13 (net5 net9 net9 0) pfet L=4.48E-6 W=7.23E-6
T14 (net7 net4 net4 0) nfet L=7.49E-6 W=6.14E-6
R15 (net7 net4) R=2.7E2
T16 (net7 net8 net8 0) pfet L=0.29E-6 W=3.43E-6
T17 (net9 net9 net9 0) pfet L=6.03E-6 W=3.51E-6
C18 (net9 net11) C=7.2E-5
T19 (net11 net1 net1 0) nfet L=0.13E-6 W=7.46E-6
T20 (net1 net4 net4 0) pfet L=7.29E-6 W=7.34E-6
T21 (net8 net11 net11 0) nfet L=2.45E-6 W=2.40E-6
R22 (net2 net3) R=5.2E5
T23 (vdd! net10 net10 0) pfet L=3.39E-6 W=7.82E-6
C24 (net10 net7) C=0.5E-12
C25 (net4 net9) C=4.5E-12
R26 (net11 net1) R=3.0E5
R27 (net8 net5) R=9.4E5
T28 (net6 net6 net6 0) pfet L=6.41E-6 W=7.30E-6
T29 (net9 0 0 0) pfet L=4.13E-6 W=7.98E-6
C30 (net2 net4) C=0.2E-14
T31 (net5 net11 net11 0) pfet L=0.46E-6 W=2.23E-6
C32 (net1 net6) C=9.0E-9
T33 (net11 net9 net9 0) nfet L=6.65E-6 W=3.62E-6
T34 (net1 vdd! vdd! 0) pfet L=1.49E-6 W=8.77E-6
T35 (net7 net3 net3 0) nfet L=8.92E-6 W=2.62E-6
T36 (net1 net7 net7 0) nfet L=9.03E-6 W=1.60E-6
R37 (0 net10) R=2.7E5
T38 (net3 net9 net9 0) nfet L=0.93E-6 W=7.00E-6
C39 (net4 net7) C=8.2E-13
T40 (net9 net10 net10 0) nfet L=9.83E-6 W=6.43E-6
T41 (net2 net9 net9 0) nfet L=0.34E-6 W=0.79E-6
T42 (net9 net9 net9 0) nfet L=7.54E-6 W=9.81E-6
T43 (net3 net11 net11 0) nfet L=1.88E-6 W=5.47E-6
T44 (net11 net11 net11 0) nfet L=7.07E-6 W=0.64E-6
C45 (net10 net6) C=3.3E-9
T46 (net7 net6 net6 0) pfet L=8.40E-6 W=4.59E-6
T47 (net4 net11 net11 0) pfet L=1.70E-6 W=9.00E-6
T48 (net11 net3 net3 0) nfet L=2.30E-6 W=1.68E-6
T49 (net4 net8 net8 0) pfet L=8.93E-6 W=0.76E-6
R50 (net9 net2) R=4.4E5
T51 (net4 net9 net9 0) nfet L=8.36E-6 W=9.53E-6
T52 (net11 net2 net2 0) pfet L=5.92E-6 W=3.93E-6

