C1 (net14 net4) C=1.9E-10
R2 (net5 net7) R=1.4E0
C3 (net1 net15) C=6.8E-8
R4 (net8 net15) R=6.6E3
R5 (net2 net6) R=9.6E6
T6 (net1 net12 net12 0) pfet L=9.92E-6 W=5.18E-6
C7 (vdd! net14) C=7.8E-5
R8 (vdd! net10) R=5.8E4
C9 (net2 net11) C=3.9E-9
C10 (net15 net7) C=3.2E-12
T11 (net6 net12 net12 0) nfet L=3.94E-6 W=6.03E-6
R12 (net6 net13) R=2.0E5
R13 (net12 net2) R=9.3E3
T14 (net12 net13 net13 0) pfet L=1.90E-6 W=7.11E-6
T15 (net8 net9 net9 0) pfet L=6.22E-6 W=8.05E-6
R16 (net8 net11) R=3.8E4
C17 (net10 net2) C=4.7E-6
T18 (net11 net2 net2 0) pfet L=8.98E-6 W=4.26E-6
C19 (net4 net6) C=2.5E-14
T20 (net2 net7 net7 0) pfet L=1.81E-6 W=0.66E-6
C21 (net13 net6) C=2.7E-9
R22 (net14 net11) R=2.3E6
R23 (net3 net10) R=4.6E1
T24 (net14 vdd! vdd! 0) pfet L=0.32E-6 W=6.05E-6
R25 (net7 0) R=3.2E1
T26 (net9 net10 net10 0) pfet L=7.95E-6 W=6.09E-6
T27 (net11 net15 net15 0) nfet L=4.34E-6 W=1.03E-6
R28 (net1 net6) R=6.3E6
R29 (vdd! net5) R=10.0E1
C30 (net2 net12) C=4.0E-5
T31 (net12 net13 net13 0) pfet L=4.17E-6 W=6.75E-6
T32 (net5 net15 net15 0) pfet L=3.87E-6 W=1.64E-6
R33 (net8 net1) R=5.6E5
T34 (net4 net11 net11 0) pfet L=6.55E-6 W=5.95E-6
T35 (net12 net9 net9 0) nfet L=6.26E-6 W=1.20E-6
C36 (net6 net15) C=2.2E-9
R37 (net10 net15) R=3.3E5

