R1 (net19 net37) R=3.6E5
R2 (net25 net3) R=9.2E6
R3 (vdd! net12) R=8.6E4
R4 (net38 net16) R=5.0E5
T5 (net15 0 0 0) nfet L=1.07E-6 W=1.78E-6
T6 (net28 net21 net21 0) nfet L=3.98E-6 W=9.02E-6
T7 (net42 net12 net12 0) nfet L=7.40E-6 W=7.23E-6
R8 (net39 net22) R=2.4E2
C9 (vdd! net12) C=5.4E-12
T10 (0 net2 net2 0) nfet L=7.52E-6 W=4.98E-6
T11 (net6 vdd! vdd! 0) nfet L=6.79E-6 W=0.33E-6
R12 (net16 net20) R=2.5E2
R13 (net41 net24) R=9.8E6
T14 (net4 net33 net33 0) pfet L=4.16E-6 W=4.03E-6
T15 (net43 net31 net31 0) pfet L=1.73E-6 W=5.47E-6
T16 (net32 net9 net9 0) nfet L=4.48E-6 W=8.87E-6
T17 (net11 net37 net37 0) pfet L=4.15E-6 W=2.77E-6
R18 (net22 net24) R=5.2E3
R19 (net15 net5) R=8.5E0
R20 (net10 net23) R=4.3E5
T21 (net8 net24 net24 0) nfet L=8.61E-6 W=1.16E-6
C22 (net38 vdd!) C=3.3E-9
R23 (net40 net25) R=0.4E0
T24 (net33 net14 net14 0) pfet L=6.98E-6 W=7.11E-6
T25 (net36 net14 net14 0) nfet L=4.18E-6 W=9.79E-6
T26 (net10 net10 net10 0) pfet L=3.05E-6 W=5.09E-6
T27 (net10 net38 net38 0) pfet L=4.15E-6 W=1.35E-6
C28 (net34 net39) C=8.3E-13
C29 (net17 net5) C=6.1E-10
T30 (vdd! net45 net45 0) pfet L=9.26E-6 W=1.91E-6
T31 (net16 vdd! vdd! 0) pfet L=8.57E-6 W=9.07E-6
C32 (net37 net39) C=9.5E-13
T33 (net35 net43 net43 0) pfet L=0.94E-6 W=9.82E-6
C34 (net46 net45) C=6.9E-8
T35 (net40 net41 net41 0) nfet L=1.01E-6 W=1.98E-6
T36 (net17 net24 net24 0) nfet L=9.25E-6 W=0.16E-6
R37 (net38 net47) R=2.5E4
R38 (net6 net34) R=6.0E2
T39 (net35 net10 net10 0) pfet L=3.60E-6 W=7.57E-6
C40 (net22 0) C=0.7E-6
T41 (net39 net43 net43 0) nfet L=4.76E-6 W=4.25E-6
T42 (net2 vdd! vdd! 0) nfet L=8.21E-6 W=1.39E-6
T43 (net42 net22 net22 0) pfet L=9.68E-6 W=6.74E-6
T44 (net21 net13 net13 0) pfet L=9.98E-6 W=5.85E-6
T45 (vdd! net46 net46 0) nfet L=5.89E-6 W=1.78E-6
T46 (net5 net5 net5 0) pfet L=2.66E-6 W=4.83E-6
T47 (net10 net45 net45 0) nfet L=5.60E-6 W=7.79E-6
T48 (net24 net21 net21 0) nfet L=0.68E-6 W=3.12E-6
R49 (vdd! net28) R=1.6E6
T50 (net13 net20 net20 0) pfet L=7.34E-6 W=3.29E-6
R51 (net2 net36) R=6.9E0
C52 (net30 net1) C=9.7E-5
T53 (0 net40 net40 0) nfet L=3.29E-6 W=0.58E-6
T54 (net13 net38 net38 0) pfet L=2.81E-6 W=7.97E-6
C55 (net32 vdd!) C=4.7E-11
T56 (net25 net32 net32 0) nfet L=5.35E-6 W=6.80E-6
T57 (net31 net23 net23 0) nfet L=1.33E-6 W=6.63E-6
T58 (net34 net42 net42 0) pfet L=8.67E-6 W=8.75E-6
T59 (vdd! net27 net27 0) pfet L=3.64E-6 W=7.23E-6
R60 (net8 net11) R=8.5E2
T61 (net46 net46 net46 0) nfet L=7.37E-6 W=6.27E-6
R62 (net23 net39) R=3.4E5
R63 (net26 net16) R=2.4E4
T64 (net45 net26 net26 0) nfet L=0.74E-6 W=7.12E-6
T65 (net32 net3 net3 0) nfet L=9.31E-6 W=6.73E-6
T66 (net18 net40 net40 0) nfet L=4.31E-6 W=9.18E-6
T67 (net18 net18 net18 0) pfet L=4.40E-6 W=1.92E-6
C68 (vdd! net36) C=6.6E-10
C69 (net34 net31) C=8.0E-9
C70 (net26 net31) C=8.1E-5
T71 (net33 net8 net8 0) pfet L=4.69E-6 W=9.13E-6
T72 (net7 net34 net34 0) pfet L=5.78E-6 W=3.67E-6
C73 (net25 net34) C=5.6E-14
R74 (net19 0) R=1.6E2
C75 (net32 net16) C=0.9E-7
R76 (net4 net36) R=1.8E4
R77 (net3 net20) R=0.6E5
T78 (vdd! 0 0 0) pfet L=6.20E-6 W=7.95E-6
T79 (net14 net3 net3 0) pfet L=1.32E-6 W=3.77E-6
T80 (net32 net13 net13 0) pfet L=0.84E-6 W=5.51E-6
T81 (net35 net38 net38 0) nfet L=2.50E-6 W=5.73E-6
T82 (net1 net7 net7 0) nfet L=7.48E-6 W=3.30E-6
R83 (net39 net36) R=1.0E2
C84 (net31 net7) C=2.7E-6
T85 (vdd! vdd! vdd! 0) pfet L=8.00E-6 W=0.85E-6
T86 (net3 net37 net37 0) pfet L=7.43E-6 W=1.42E-6
R87 (net16 net41) R=1.5E2
C88 (net17 net15) C=1.0E-14
T89 (net20 net15 net15 0) pfet L=4.03E-6 W=0.22E-6
R90 (0 net5) R=3.5E5
C91 (net31 net15) C=6.8E-13
R92 (net24 net35) R=3.7E1
T93 (net44 vdd! vdd! 0) nfet L=4.37E-6 W=3.17E-6
T94 (net12 0 0 0) nfet L=9.52E-6 W=4.74E-6
T95 (net29 net18 net18 0) nfet L=3.11E-6 W=9.85E-6

