C1 (net24 net38) C=5.2E-6
C2 (net25 net30) C=2.8E-5
T3 (net20 net41 net41 0) nfet L=5.56E-6 W=2.45E-6
T4 (net1 net56 net56 0) nfet L=2.16E-6 W=2.28E-6
R5 (net30 net1) R=1.1E0
T6 (net45 net22 net22 0) nfet L=6.49E-6 W=2.86E-6
T7 (net50 net43 net43 0) pfet L=3.53E-6 W=7.99E-6
T8 (net15 net23 net23 0) pfet L=6.73E-6 W=9.45E-6
T9 (net21 net33 net33 0) nfet L=4.26E-6 W=2.89E-6
R10 (net10 net54) R=2.2E6
T11 (net4 net30 net30 0) nfet L=2.11E-6 W=3.94E-6
R12 (net50 net42) R=3.5E3
T13 (net6 net20 net20 0) nfet L=3.00E-6 W=2.45E-6
T14 (net37 0 0 0) pfet L=7.69E-6 W=1.60E-6
R15 (net52 net43) R=1.0E6
T16 (net41 net41 net41 0) nfet L=6.37E-6 W=8.24E-6
C17 (net56 net29) C=8.3E-11
C18 (net6 net5) C=5.2E-12
C19 (net54 vdd!) C=8.5E-12
T20 (net42 net31 net31 0) nfet L=9.22E-6 W=2.14E-6
C21 (net11 net36) C=1.3E-9
T22 (net55 net53 net53 0) pfet L=0.42E-6 W=0.28E-6
C23 (net6 net29) C=9.6E-10
C24 (net13 net14) C=6.3E-9
T25 (net18 net46 net46 0) nfet L=2.45E-6 W=2.08E-6
R26 (net15 net36) R=4.3E4
C27 (net43 vdd!) C=7.9E-11
T28 (net58 net48 net48 0) nfet L=9.29E-6 W=4.00E-6
R29 (net3 net10) R=0.2E4
T30 (net44 net57 net57 0) nfet L=7.21E-6 W=3.26E-6
T31 (0 net20 net20 0) nfet L=9.25E-6 W=2.87E-6
T32 (net36 net54 net54 0) pfet L=4.01E-6 W=2.85E-6
T33 (net53 net46 net46 0) nfet L=6.06E-6 W=8.93E-6
T34 (net23 net33 net33 0) nfet L=9.93E-6 W=1.36E-6
T35 (net47 net59 net59 0) nfet L=2.37E-6 W=6.62E-6
R36 (net13 net6) R=2.8E1
T37 (net34 net55 net55 0) pfet L=2.89E-6 W=1.88E-6
C38 (net36 net15) C=0.8E-12
T39 (net11 net33 net33 0) pfet L=5.93E-6 W=4.30E-6
T40 (net21 net14 net14 0) pfet L=4.56E-6 W=5.57E-6
R41 (net33 net17) R=6.8E3
R42 (net19 net32) R=4.6E1
C43 (net43 0) C=3.3E-10
T44 (net48 net23 net23 0) pfet L=8.34E-6 W=6.04E-6
C45 (net54 0) C=3.0E-6
T46 (net40 net18 net18 0) pfet L=9.90E-6 W=3.89E-6
R47 (net25 net27) R=10.0E0
T48 (net18 net21 net21 0) pfet L=3.57E-6 W=4.78E-6
C49 (net31 net46) C=1.2E-13
R50 (net18 net34) R=4.5E3
T51 (net28 net51 net51 0) pfet L=5.29E-6 W=5.33E-6
C52 (net24 net7) C=6.6E-13
T53 (net20 net16 net16 0) nfet L=0.85E-6 W=3.81E-6
T54 (net35 vdd! vdd! 0) nfet L=6.62E-6 W=2.46E-6
C55 (net31 net28) C=8.6E-9
C56 (net48 net53) C=2.4E-12
T57 (net25 vdd! vdd! 0) pfet L=8.41E-6 W=7.34E-6
R58 (net48 net22) R=0.2E3
C59 (net6 net47) C=2.0E-9
T60 (net47 net53 net53 0) pfet L=9.39E-6 W=0.49E-6
T61 (net9 net22 net22 0) pfet L=1.49E-6 W=1.08E-6
C62 (net49 net21) C=6.1E-5
R63 (net26 net30) R=1.9E6
R64 (net35 net32) R=5.9E3
T65 (net48 net42 net42 0) nfet L=2.04E-6 W=6.73E-6
R66 (net54 net2) R=9.6E2
T67 (net46 net5 net5 0) nfet L=0.89E-6 W=4.25E-6
C68 (vdd! net9) C=8.7E-7
C69 (net8 net21) C=4.7E-11
R70 (net14 0) R=3.4E2
R71 (net56 net14) R=5.8E5
R72 (net43 net1) R=7.5E5
T73 (net55 net6 net6 0) nfet L=6.39E-6 W=4.14E-6
R74 (net38 vdd!) R=7.7E1
T75 (net5 vdd! vdd! 0) nfet L=5.47E-6 W=1.47E-6
R76 (net8 net27) R=9.5E0
C77 (net42 net13) C=4.7E-10
T78 (net14 net29 net29 0) pfet L=9.64E-6 W=8.36E-6
C79 (net3 net9) C=0.9E-7
C80 (net26 net52) C=9.2E-11
T81 (net10 net20 net20 0) nfet L=2.14E-6 W=4.46E-6
T82 (net12 net45 net45 0) pfet L=8.33E-6 W=5.44E-6
T83 (net20 net7 net7 0) nfet L=9.00E-6 W=8.15E-6
C84 (net43 net53) C=9.0E-8
T85 (net30 net33 net33 0) nfet L=5.36E-6 W=3.20E-6
T86 (net47 net1 net1 0) nfet L=5.82E-6 W=4.78E-6
C87 (net17 net12) C=0.5E-11
R88 (net28 net46) R=5.0E1
T89 (net27 net13 net13 0) nfet L=2.53E-6 W=0.48E-6
C90 (net30 net19) C=5.9E-12
T91 (net15 net44 net44 0) nfet L=6.01E-6 W=4.25E-6
C92 (net23 net6) C=5.7E-12
R93 (net7 net43) R=1.1E0
C94 (net16 net24) C=4.0E-5
T95 (net30 net8 net8 0) pfet L=6.49E-6 W=1.88E-6
T96 (net51 net26 net26 0) nfet L=6.76E-6 W=3.09E-6
T97 (net13 net53 net53 0) pfet L=9.48E-6 W=1.01E-6
R98 (net31 net14) R=1.3E6
C99 (net3 vdd!) C=3.3E-6
R100 (net33 net30) R=10.0E3
T101 (net49 net37 net37 0) pfet L=7.49E-6 W=1.10E-6
T102 (net17 net51 net51 0) nfet L=5.31E-6 W=7.64E-6
C103 (net9 net45) C=7.4E-8
T104 (net44 net47 net47 0) nfet L=0.47E-6 W=5.74E-6
R105 (net16 net27) R=4.3E2
T106 (vdd! net12 net12 0) nfet L=1.75E-6 W=2.97E-6
T107 (net38 net43 net43 0) nfet L=9.27E-6 W=0.47E-6
C108 (net49 net5) C=4.7E-7
R109 (net40 net2) R=5.6E2
C110 (net11 net6) C=7.8E-7
T111 (net1 net44 net44 0) pfet L=3.30E-6 W=9.85E-6
T112 (net34 net58 net58 0) pfet L=8.21E-6 W=5.95E-6
T113 (net37 net45 net45 0) nfet L=6.15E-6 W=2.13E-6
R114 (net33 vdd!) R=0.4E4
R115 (net3 net13) R=2.8E6

