T1 (net10 net35 net35 0) pfet L=6.01E-6 W=2.94E-6
T2 (0 net20 net20 0) nfet L=2.50E-6 W=1.60E-6
R3 (net39 net24) R=9.3E5
R4 (net7 net2) R=2.6E4
R5 (vdd! net19) R=6.7E4
T6 (net29 net31 net31 0) nfet L=2.72E-6 W=2.11E-6
R7 (vdd! net14) R=1.3E2
T8 (net27 net9 net9 0) pfet L=4.44E-6 W=4.06E-6
T9 (net43 net39 net39 0) pfet L=9.83E-6 W=8.60E-6
T10 (vdd! vdd! vdd! 0) nfet L=1.81E-6 W=2.49E-6
T11 (net38 net35 net35 0) nfet L=0.65E-6 W=4.15E-6
T12 (net6 net28 net28 0) nfet L=0.28E-6 W=3.47E-6
C13 (net43 net3) C=2.6E-5
T14 (net13 net7 net7 0) nfet L=8.26E-6 W=2.73E-6
R15 (net11 net19) R=4.8E5
T16 (net7 net33 net33 0) nfet L=3.22E-6 W=4.36E-6
R17 (net36 net2) R=5.6E5
R18 (net31 net5) R=8.8E4
C19 (net35 net9) C=9.9E-9
T20 (net18 net17 net17 0) pfet L=4.36E-6 W=4.26E-6
T21 (net37 net18 net18 0) pfet L=1.19E-6 W=3.49E-6
T22 (net25 net4 net4 0) nfet L=8.02E-6 W=5.94E-6
R23 (0 net12) R=3.7E2
T24 (net12 net32 net32 0) pfet L=5.97E-6 W=8.42E-6
R25 (net14 net38) R=10.0E0
R26 (net10 net33) R=9.8E6
R27 (vdd! net24) R=8.5E4
T28 (net29 net40 net40 0) pfet L=3.45E-6 W=0.53E-6
C29 (net2 net3) C=5.5E-5
T30 (net17 net34 net34 0) pfet L=1.98E-6 W=4.83E-6
T31 (vdd! net28 net28 0) pfet L=6.88E-6 W=6.58E-6
C32 (net30 net35) C=2.1E-14
C33 (net37 net18) C=4.5E-14
T34 (net30 net33 net33 0) nfet L=0.16E-6 W=8.44E-6
T35 (net35 net16 net16 0) pfet L=6.98E-6 W=7.73E-6
C36 (vdd! net23) C=9.7E-13
C37 (vdd! net17) C=9.1E-7
R38 (net26 net29) R=4.3E1
T39 (net9 net32 net32 0) pfet L=4.33E-6 W=5.13E-6
C40 (net15 net8) C=2.1E-7
T41 (net24 0 0 0) nfet L=5.11E-6 W=9.09E-6
T42 (net33 net19 net19 0) nfet L=3.82E-6 W=5.59E-6
R43 (net5 net26) R=7.2E1
C44 (net16 net35) C=7.7E-10
T45 (net30 net2 net2 0) pfet L=5.20E-6 W=8.25E-6
R46 (net41 net14) R=2.2E0
R47 (net37 net4) R=5.7E2
T48 (vdd! net34 net34 0) pfet L=5.21E-6 W=7.66E-6
R49 (net24 net17) R=3.5E1
C50 (net39 net26) C=5.7E-7
T51 (net3 net22 net22 0) pfet L=2.80E-6 W=4.97E-6
R52 (net25 net23) R=0.2E6
T53 (net34 net8 net8 0) pfet L=7.61E-6 W=4.36E-6
T54 (net10 net40 net40 0) nfet L=4.93E-6 W=0.74E-6
T55 (net42 net3 net3 0) nfet L=4.18E-6 W=5.77E-6
T56 (net21 net15 net15 0) nfet L=0.96E-6 W=9.53E-6
T57 (0 net23 net23 0) nfet L=3.38E-6 W=7.65E-6
T58 (net33 net25 net25 0) nfet L=3.48E-6 W=7.95E-6
T59 (0 net40 net40 0) pfet L=0.69E-6 W=3.36E-6
R60 (net2 net33) R=1.3E1
T61 (net25 vdd! vdd! 0) pfet L=5.24E-6 W=2.61E-6
R62 (net20 net26) R=2.8E1
T63 (vdd! net15 net15 0) nfet L=8.44E-6 W=3.87E-6
R64 (net19 net23) R=7.0E5
R65 (net17 net11) R=4.7E0
T66 (net21 vdd! vdd! 0) nfet L=9.56E-6 W=7.31E-6
C67 (net34 net16) C=3.0E-6
T68 (net33 net43 net43 0) pfet L=5.89E-6 W=3.20E-6
C69 (net10 net11) C=7.6E-12
T70 (net4 net33 net33 0) nfet L=3.86E-6 W=2.21E-6
R71 (net5 net4) R=2.1E0
C72 (net14 net7) C=5.9E-6
C73 (net42 net2) C=2.3E-14
T74 (net4 net16 net16 0) nfet L=4.42E-6 W=5.61E-6
C75 (net22 net29) C=5.5E-9
R76 (net19 0) R=8.9E1
T77 (net36 net10 net10 0) pfet L=7.23E-6 W=8.92E-6
T78 (net14 net14 net14 0) pfet L=3.31E-6 W=7.60E-6
R79 (net2 vdd!) R=9.3E5
T80 (net3 net13 net13 0) pfet L=9.13E-6 W=8.03E-6
T81 (net28 vdd! vdd! 0) pfet L=2.04E-6 W=0.31E-6
T82 (net24 net37 net37 0) pfet L=5.95E-6 W=5.04E-6
C83 (net25 net5) C=3.3E-10
T84 (net9 net12 net12 0) pfet L=6.28E-6 W=7.00E-6
T85 (net26 net30 net30 0) pfet L=1.84E-6 W=4.51E-6
T86 (net36 net14 net14 0) nfet L=6.65E-6 W=4.23E-6
R87 (net19 net10) R=6.7E2
T88 (net6 net9 net9 0) pfet L=8.73E-6 W=3.33E-6
C89 (net31 net27) C=7.3E-8
C90 (net21 net33) C=7.7E-6
C91 (net31 net42) C=1.6E-8
T92 (vdd! net40 net40 0) nfet L=0.88E-6 W=8.38E-6
C93 (net6 net22) C=9.7E-14
T94 (net8 net23 net23 0) nfet L=1.09E-6 W=5.34E-6
T95 (net28 net18 net18 0) nfet L=8.21E-6 W=9.63E-6
T96 (net7 net26 net26 0) nfet L=6.03E-6 W=1.40E-6
C97 (net29 net14) C=5.2E-10
T98 (net35 net21 net21 0) pfet L=8.48E-6 W=0.71E-6
T99 (net22 net43 net43 0) pfet L=8.29E-6 W=3.78E-6
T100 (net20 net30 net30 0) pfet L=5.09E-6 W=4.09E-6
C101 (net10 net35) C=1.2E-11
C102 (net18 net4) C=0.8E-13
T103 (vdd! net1 net1 0) pfet L=2.21E-6 W=6.41E-6
T104 (net4 net4 net4 0) nfet L=1.82E-6 W=6.32E-6
C105 (net31 net25) C=3.6E-13
R106 (net39 net3) R=4.7E5
C107 (net30 net27) C=8.8E-12
C108 (net22 net20) C=1.4E-9
C109 (net17 0) C=4.4E-11
C110 (net18 net9) C=4.2E-11
R111 (net30 net28) R=9.1E3
T112 (net7 net17 net17 0) nfet L=1.61E-6 W=4.92E-6
C113 (net23 net30) C=7.8E-11
T114 (0 net23 net23 0) pfet L=2.08E-6 W=9.01E-6
R115 (net26 net32) R=5.0E5
T116 (net42 net17 net17 0) nfet L=8.41E-6 W=7.03E-6
T117 (net34 net33 net33 0) nfet L=8.20E-6 W=6.37E-6
T118 (net28 net17 net17 0) nfet L=3.95E-6 W=7.10E-6
T119 (net29 net30 net30 0) pfet L=9.01E-6 W=6.12E-6
R120 (net40 net16) R=7.8E5
C121 (net30 net13) C=0.5E-8
C122 (net10 net35) C=2.0E-5

