R1 (0 net2) R=6.4E6
T2 (net1 net2 net2 0) pfet L=5.62E-6 W=6.03E-6
T3 (net1 net2 net2 0) nfet L=4.49E-6 W=7.89E-6
T4 (net2 net1 net1 0) nfet L=6.01E-6 W=6.42E-6
C5 (net2 net1) C=2.3E-13
T6 (net1 0 0 0) pfet L=5.80E-6 W=7.61E-6
R7 (net1 net2) R=5.0E5
T8 (net2 net2 net2 0) nfet L=0.63E-6 W=5.89E-6
R9 (0 net2) R=5.5E4
R10 (net2 net1) R=3.1E5
C11 (0 net2) C=10.0E-12
R12 (net1 0) R=1.0E5
T13 (0 net2 net2 0) nfet L=2.27E-6 W=0.56E-6
T14 (net2 net2 net2 0) nfet L=9.79E-6 W=8.68E-6
C15 (vdd! net2) C=7.7E-7
T16 (net2 net2 net2 0) pfet L=2.09E-6 W=6.23E-6
T17 (net1 net2 net2 0) pfet L=3.89E-6 W=7.53E-6
C18 (net2 0) C=6.3E-8
T19 (net1 net1 net1 0) nfet L=7.05E-6 W=9.00E-6
T20 (net1 net2 net2 0) pfet L=4.17E-6 W=8.71E-6
C21 (net1 net2) C=2.5E-13
T22 (net2 net2 net2 0) nfet L=5.23E-6 W=3.53E-6
T23 (net1 net1 net1 0) pfet L=9.18E-6 W=3.80E-6
T24 (net2 net1 net1 0) nfet L=2.13E-6 W=0.50E-6
T25 (net1 vdd! vdd! 0) nfet L=5.10E-6 W=9.99E-6
R26 (net1 net2) R=6.8E6
T27 (net1 net2 net2 0) nfet L=7.52E-6 W=7.33E-6
T28 (net2 net2 net2 0) nfet L=7.21E-6 W=6.34E-6
T29 (net2 0 0 0) pfet L=1.28E-6 W=5.09E-6
C30 (net2 net1) C=2.9E-5
T31 (net1 net2 net2 0) nfet L=6.37E-6 W=2.09E-6
R32 (net2 net1) R=9.4E5
C33 (net2 0) C=2.0E-13
T34 (net2 net2 net2 0) pfet L=4.01E-6 W=1.57E-6
T35 (net1 net2 net2 0) nfet L=9.25E-6 W=0.28E-6
T36 (net2 0 0 0) nfet L=0.67E-6 W=8.45E-6
C37 (net2 net1) C=8.1E-8
R38 (net2 net1) R=1.9E3
C39 (net2 vdd!) C=7.1E-8
C40 (net1 net2) C=8.2E-13
R41 (net2 0) R=2.7E5
T42 (net2 net2 net2 0) nfet L=0.49E-6 W=3.44E-6
C43 (net2 net1) C=7.7E-5
C44 (net2 vdd!) C=8.1E-5
R45 (0 net1) R=5.3E6
C46 (net2 vdd!) C=6.6E-8
C47 (net1 vdd!) C=4.5E-12
R48 (net1 net2) R=7.4E0
R49 (net2 vdd!) R=7.2E4
R50 (net2 net1) R=4.1E6
T51 (net2 net1 net1 0) pfet L=8.10E-6 W=0.38E-6
T52 (net1 net1 net1 0) nfet L=0.49E-6 W=1.46E-6
T53 (net2 net1 net1 0) pfet L=3.89E-6 W=3.07E-6
R54 (net1 net2) R=5.4E6
T55 (net1 net2 net2 0) nfet L=7.19E-6 W=2.57E-6
T56 (net2 net1 net1 0) nfet L=4.82E-6 W=3.02E-6
R57 (net1 0) R=0.8E1
C58 (net2 net1) C=4.5E-7
T59 (net2 vdd! vdd! 0) pfet L=4.28E-6 W=7.36E-6
T60 (vdd! net2 net2 0) pfet L=7.00E-6 W=6.32E-6
R61 (net2 net1) R=1.5E1
C62 (net1 net2) C=5.3E-10
R63 (net1 net2) R=3.0E5
T64 (net1 net2 net2 0) nfet L=7.37E-6 W=1.35E-6
R65 (net2 net1) R=3.1E1
C66 (net1 net2) C=9.1E-7
T67 (net2 net1 net1 0) pfet L=8.80E-6 W=6.72E-6
T68 (net1 net2 net2 0) nfet L=7.56E-6 W=8.91E-6
C69 (net2 net1) C=6.1E-8
R70 (vdd! net2) R=4.0E1
R71 (net1 vdd!) R=1.3E5
R72 (net1 net2) R=4.4E0
T73 (net1 net1 net1 0) pfet L=1.16E-6 W=0.66E-6
R74 (net2 net1) R=4.4E4
R75 (net1 net2) R=2.4E2
C76 (net2 net1) C=8.5E-13
C77 (net1 net2) C=0.8E-12
R78 (net2 net1) R=9.7E1
C79 (net1 net2) C=8.8E-8
T80 (net1 net1 net1 0) nfet L=4.90E-6 W=4.58E-6
R81 (net2 0) R=9.5E2
C82 (net2 0) C=9.3E-12
C83 (net1 net2) C=3.4E-10
T84 (vdd! net1 net1 0) pfet L=7.94E-6 W=3.82E-6
T85 (net2 net1 net1 0) pfet L=2.95E-6 W=7.23E-6
T86 (net2 net2 net2 0) pfet L=8.82E-6 W=5.35E-6
C87 (0 net2) C=0.8E-9
R88 (0 net2) R=1.3E3
T89 (net2 net2 net2 0) nfet L=9.76E-6 W=5.11E-6
T90 (net1 net1 net1 0) nfet L=1.76E-6 W=7.48E-6
C91 (net2 net1) C=0.4E-10
T92 (net1 net1 net1 0) pfet L=4.22E-6 W=6.83E-6
T93 (net2 net1 net1 0) pfet L=4.36E-6 W=7.21E-6
T94 (net2 net1 net1 0) nfet L=8.29E-6 W=8.67E-6
C95 (net2 net1) C=2.6E-10
R96 (net2 0) R=9.5E0
C97 (net2 net1) C=3.1E-11
R98 (vdd! net2) R=5.2E0
T99 (net1 0 0 0) pfet L=3.81E-6 W=8.12E-6
T100 (vdd! net1 net1 0) nfet L=7.55E-6 W=3.00E-6
R101 (net1 net2) R=2.3E4
T102 (net2 net1 net1 0) pfet L=4.75E-6 W=4.92E-6
R103 (net1 0) R=3.8E3
T104 (net1 net1 net1 0) pfet L=3.86E-6 W=8.48E-6
R105 (net1 net2) R=4.5E6
C106 (net1 net2) C=8.3E-10
C107 (net2 net1) C=7.2E-7
T108 (net2 net1 net1 0) pfet L=8.99E-6 W=1.49E-6
T109 (net2 net2 net2 0) nfet L=1.52E-6 W=9.15E-6
T110 (net1 net2 net2 0) nfet L=4.49E-6 W=5.80E-6
C111 (net1 net2) C=8.7E-8
R112 (net1 net2) R=3.3E1
C113 (net1 net2) C=1.1E-11
R114 (net1 net2) R=9.5E2
T115 (net1 0 0 0) nfet L=0.14E-6 W=7.70E-6
T116 (net2 net2 net2 0) pfet L=7.83E-6 W=9.70E-6
T117 (0 net2 net2 0) nfet L=5.32E-6 W=8.08E-6
R118 (net1 net2) R=6.4E5
R119 (net1 net2) R=8.5E4
R120 (net2 net1) R=4.1E0
T121 (net1 net1 net1 0) pfet L=6.76E-6 W=5.92E-6
C122 (net1 net2) C=4.1E-8
R123 (net2 net1) R=5.1E4
T124 (net1 net2 net2 0) nfet L=3.11E-6 W=5.57E-6
R125 (net2 net1) R=7.0E0
R126 (net1 net2) R=4.8E6
C127 (0 net1) C=2.7E-12
R128 (net2 net1) R=9.1E5
T129 (net1 0 0 0) nfet L=3.17E-6 W=4.82E-6
C130 (net1 net2) C=3.6E-8
C131 (net1 vdd!) C=4.5E-9
T132 (vdd! net2 net2 0) nfet L=5.49E-6 W=6.55E-6
C133 (net1 net2) C=2.1E-13
T134 (net1 net2 net2 0) nfet L=9.88E-6 W=1.61E-6
T135 (net2 vdd! vdd! 0) nfet L=1.31E-6 W=1.80E-6
R136 (net2 net1) R=4.4E2
T137 (net1 net2 net2 0) nfet L=8.09E-6 W=0.65E-6
R138 (net2 net1) R=3.3E2
C139 (net2 net1) C=0.3E-5
T140 (net2 net2 net2 0) nfet L=6.87E-6 W=3.54E-6
R141 (net1 net2) R=0.3E3
T142 (net1 vdd! vdd! 0) nfet L=7.01E-6 W=6.70E-6
C143 (net2 net1) C=9.5E-7
C144 (net1 net2) C=6.6E-11
R145 (net2 net1) R=9.7E5
R146 (net2 net1) R=5.7E5
R147 (net2 vdd!) R=6.2E1
C148 (net1 net2) C=0.3E-14
R149 (net2 0) R=4.8E1
T150 (net2 vdd! vdd! 0) nfet L=9.48E-6 W=2.50E-6
T151 (net1 net1 net1 0) nfet L=1.94E-6 W=9.40E-6
T152 (net2 net2 net2 0) pfet L=6.81E-6 W=2.99E-6
T153 (net2 net2 net2 0) nfet L=7.27E-6 W=5.36E-6
R154 (net1 net2) R=3.1E4
C155 (net1 net2) C=2.7E-12
T156 (net2 net1 net1 0) pfet L=8.01E-6 W=9.92E-6
C157 (net2 net1) C=6.6E-7
C158 (net2 net1) C=5.8E-5
T159 (net2 net1 net1 0) nfet L=6.42E-6 W=6.32E-6
T160 (net1 net2 net2 0) pfet L=1.36E-6 W=7.87E-6
T161 (net1 net1 net1 0) nfet L=3.90E-6 W=6.70E-6
T162 (net1 vdd! vdd! 0) pfet L=0.15E-6 W=5.21E-6
R163 (net2 net1) R=5.4E5
R164 (net2 0) R=3.2E1
T165 (net1 net2 net2 0) pfet L=1.18E-6 W=4.71E-6
R166 (net1 net2) R=1.7E2
T167 (0 net1 net1 0) nfet L=9.67E-6 W=4.94E-6
T168 (net1 net1 net1 0) nfet L=8.81E-6 W=8.40E-6
R169 (0 net2) R=6.1E6
R170 (net1 net2) R=8.6E5
R171 (vdd! net1) R=4.7E4
R172 (net2 net1) R=5.9E6

